2108-06-14 06:22:00 Physician Resident Progress Note
Chief Complaint: [**Age over 90 211**] yoM presents with two weeks of shortness of breath
   and weakness, found to be in AF with severe bradycardia.
   24 Hour Events:
 TEMPORARY PACEMAKER WIRES INSERTED - At [**2108-6-13**] 05:00 PM
   temporary pacer placement attempted, time out done. Dr. [**First Name (STitle) **] unable to
   place temp wire, see procedure note.
 CORDIS/INTRODUCER - START [**2108-6-13**] 08:43 PM
 NASAL SWAB - At [**2108-6-14**] 05:38 AM
   Multiple attempt at temporary pacer lead failed, pt had cordis placed
   Became agitated overnight given 5mg zyprexa
   Pt pulled line --> repeat CXR
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-6-14**] 01:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-14**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 36 (31 - 49) bpm
   BP: 127/68(83) {78/44(31) - 169/117(131)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: Junctional escape rhythm
   Height: 68 Inch
             Total In:
                                                                    289 mL
                                                                    152 mL
   PO:
                                                                    220 mL
             TF:
   IVF:
                                                                     69 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                    775 mL
   Urine:
                                                                    130 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    159 mL
                                                                   -623 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: Well appearing adult male in NAD. Oriented x3. Though confused
   at times.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, short neck with flat veins.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   brady, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Few crackles at bases bilaterally,
   clearing with cough. No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Trace LE edema. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1+
   Left: Carotid 2+ Femoral 2+ DP 1+
   Labs / Radiology
   206 K/uL
   13.6 g/dL
   115
   1.5
   26
   4.3
   26
   108
   144
   40.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2108-6-14**]  05:16 AM
   WBC
   10.1
   Hct
   40.5
   Plt
   206
   Assessment and Plan
 BRADYCARDIA
   [**Age over 90 211**] yoM presents with two weeks of shortness of breath and weakness,
   found to be in AF with severe bradycardia.
   .
   RHYTHM: AF with junctional escape rhythm, of which he does not have a
   prior history, as well as bradycardia. Suspect that this dysrhythmia is
   likely causing his symptoms. TSH wnl
   -appreciate EP input
   - NPO and planned for PPM placement this AM
   -TC pacing pads in place with pacer at bedside
   -check echo
   -hold on anticoagulation for AF at present given planned procedure
   .
   PUMP: Pt with some evidence of mild to moderate volume overload (some
   CHF on CXR, elevated BNP, peripheral edema). Failure may well be
   secondary to pt's bradycardia.  Respiratory status is stable for now,
   - will hold on diuresis pending pacer placement.
   .
   CORONARIES: History and ECG are not suggestive of coronary ischemia.
   Initial CEs in ED show normal CK with mildly elevated troponin in
   setting of renal failure. Will continue to trend patient clinical
   status.
   -continue home ASA
   .
   HTN: Pt denies being on any antihypertsives at home. At this point,
   will trend BP
   - consider initiation of if continues to be elevated, will dicuss with
   PCP.
   .
   DELIRIUM: Likely related to being in hospital
   - cont to reorient and redirect
   -zyprexa PRN
   .
   RENAL FAILURE: Recent labs from PCP office show SCr of 1.4, suggesting
   chronic process with patient at baseline.
   - Will trend creatinine
   - avoid nephrotoxins and renally dose meds
   .
   ELEVATED BLOOD SUGAR: 170 at time of admission. f/u morning labs; low
   threshold for initiation of ISS.
   .
   HYPERLIPIDEMIA: Continue home simvastatin. Will check FLP.
   .
   BPH: Continue home tamsulosin.
   ICU Care
   Nutrition:
   Lines:
   18 Gauge - [**2108-6-13**] 02:54 PM
   Cordis/Introducer - [**2108-6-13**] 08:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor post procedure

2108-06-15 07:06:00 Physician Resident Progress Note
Chief Complaint: Bradycardia
   24 Hour Events:
   - Pacer placed, pt had high filling pressures during procedure, also
   lost about 500cc blood, and received 600cc crystalloid. Site looked
   well post-procedure. Hct 31 (from 36). Rechecked Hct at 9pm 34.7
   - Cordis removed
   - Echo ordered but not done
   - I/O check post procedure(goal -1L): -500 balance at MN, given another
   lasix 10 IV x1.
   - Pt's BP incr to 170s systolic, started captopril 6.25 TID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-15**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 66 (41 - 81) bpm
   BP: 166/68(92) {118/54(71) - 174/94(98)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 68 Inch
                  Total In:
                                                                    934 mL
                  PO:
                                                                    160 mL
                  TF:
   IVF:
                                                                    774 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                  1,100 mL
   Urine:
                                                                  1,500 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -566 mL
                                                                 -1,100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.26/53/184/26/-3
   Physical Examination
   GENERAL: Well appearing adult male in NAD. Oriented to person.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, short neck with flat veins.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   brady, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Few crackles at bases bilaterally,
   clearing with cough. No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness
   EXTREMITIES: Trace LE edema..
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1+
   Left: Carotid 2+ Femoral 2+ DP 1+
   Labs / Radiology
   173 K/uL
   10.9 g/dL
   135 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   107 mEq/L
   143 mEq/L
   31.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2108-6-14**]  05:16 AM
                             [**2108-6-14**]  12:17 PM
                             [**2108-6-14**]  01:28 PM
                             [**2108-6-14**]  03:01 PM
                             [**2108-6-14**]  09:14 PM
                             [**2108-6-15**]  03:37 AM
   WBC
   10.1
   8.8
   Hct
   40.5
   38
   36
   31.8
   34.7
   31.3
   Plt
   206
   173
   Cr
   1.5
   1.3
   TCO2
   28
   25
   Glucose
   115
   150
   135
   Other labs: PT / PTT / INR:15.2/28.9/1.3, Lactic Acid:0.9 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   [**Age over 90 211**] yoM presents with two weeks of shortness of breath and weakness,
   found to be in AF with severe bradycardia.
   .
   RHYTHM: AF with junctional escape rhythm, of which he does not have a
   prior history, as well as bradycardia. Suspect that this dysrhythmia is
   likely causing his symptoms. TSH wnl
   -appreciate EP input
   - NPO and planned for PPM placement this AM
   -TC pacing pads in place with pacer at bedside
   -check echo
   -hold on anticoagulation for AF at present given planned procedure
   .
   PUMP: Pt with some evidence of mild to moderate volume overload (some
   CHF on CXR, elevated BNP, peripheral edema). Failure may well be
   secondary to pt's bradycardia.  Respiratory status is stable for now,
   - will hold on diuresis pending pacer placement.
   .
   CORONARIES: History and ECG are not suggestive of coronary ischemia.
   Initial CEs in ED show normal CK with mildly elevated troponin in
   setting of renal failure. Will continue to trend patient clinical
   status.
   -continue home ASA
   .
   HTN: Pt denies being on any antihypertsives at home. At this point,
   will trend BP
   - consider initiation of if continues to be elevated, will dicuss with
   PCP.
   .
   DELIRIUM: Likely related to being in hospital
   - cont to reorient and redirect
   -zyprexa PRN
   .
   RENAL FAILURE: Recent labs from PCP office show SCr of 1.4, suggesting
   chronic process with patient at baseline.
   - Will trend creatinine
   - avoid nephrotoxins and renally dose meds
   .
   ELEVATED BLOOD SUGAR: 170 at time of admission. f/u morning labs; low
   threshold for initiation of ISS.
   .
   HYPERLIPIDEMIA: Continue home simvastatin. Will check FLP.
   .
   BPH: Continue home tamsulosin.
   ICU Care
   Nutrition: Heart Healthy
   Lines:
   18 Gauge - [**2108-6-13**] 02:54 PM
   Cordis/Introducer - [**2108-6-13**] 08:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor post procedure
   :

2108-06-15 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pacer placed, pt had high filling pressures during procedure, also
   lost about 500cc blood, and received 600cc crystalloid. Site looked
   well post-procedure. Hct 31 (from 36). Rechecked Hct at 9pm 34.7
   - Cordis removed
   - Echo ordered but not done
   - I/O check post procedure(goal -1L): -500 balance at MN, given another
   lasix 10 IV x1.
   - Pt's BP incr to 170s systolic, started captopril 6.25 TID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-15**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 66 (60 - 81) bpm
   BP: 166/68(92) {118/61(76) - 174/94(98)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 68 Inch
                  Total In:
                                                                    934 mL
                  PO:
                                                                    160 mL
                  TF:
   IVF:
                                                                    774 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                  1,100 mL
   Urine:
                                                                  1,500 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -566 mL
                                                                 -1,100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.26/53/184/26/-3
   Physical Examination
   GENERAL: Well appearing adult male in NAD. Oriented to person.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, short neck with flat veins.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   brady, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Few crackles at bases bilaterally,
   clearing with cough. No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness
   EXTREMITIES: Trace LE edema..
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 1+
   Left: Carotid 2+ Femoral 2+ DP 1+
   Labs / Radiology
   173 K/uL
   10.9 g/dL
   135 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.9 mEq/L
   22 mg/dL
   107 mEq/L
   143 mEq/L
   31.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2108-6-14**]  05:16 AM
                             [**2108-6-14**]  12:17 PM
                             [**2108-6-14**]  01:28 PM
                             [**2108-6-14**]  03:01 PM
                             [**2108-6-14**]  09:14 PM
                             [**2108-6-15**]  03:37 AM
   WBC
   10.1
   8.8
   Hct
   40.5
   38
   36
   31.8
   34.7
   31.3
   Plt
   206
   173
   Cr
   1.5
   1.3
   TCO2
   28
   25
   Glucose
   115
   150
   135
   Other labs: PT / PTT / INR:15.2/28.9/1.3, Lactic Acid:0.9 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   [**Age over 90 211**] yoM presents with two weeks of shortness of breath and weakness,
   found to be in AF with severe bradycardia.
   .
   RHYTHM: Pacer placed yesterday. HR now 60
s-80
   - f/u EP recs
 PA/Lat CXR, Vanco 1gm today, Levoflox 500mg x3d
   -ECHO today will f/u on results
   -will start anticoagulation warfarin 4mg, when interogate in a couple
   months EP will then decide to continue or stop warfarin
   .
   PUMP: Mild crackles on examination. Fluid status -500
   -ECHO today
   -Diuresis -500 yesterday , lasix 10 IV x1
   .
   CORONARIES: No active issues.
   -continue home ASA
   -cont ACE
   .
   HTN: Hypertensive with SBPs in the 170
s overnight. Captopril 6.25 mg
   TID initiated.
   -cont to monitor and uptitrate Captopril as needed.
   .
   DELIRIUM: Continues to be agitated and confused. Patient received
   Haldol for agitation.
   - cont to reorient and redirect
   -Haldol PRN
   .
   RENAL FAILURE: Cr at baseline.
   - avoid nephrotoxins and renally dose meds
   .
   ELEVATED BLOOD SUGAR: AM blood sugar elevated at 135.
   - Initiate FSBS QID
   .
   HYPERLIPIDEMIA: Continue home simvastatin.
   .
   BPH: Continue home tamsulosin.
   FEN: will check swallow exam when improved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-6-15**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: